US07842696B2
DIPEA (284 mg, 0.19 mL, 1.62 mmol) was added to a stirred solution of 2-(4-benzyloxy-benzoylamino)-2-methyl-propionic acid (170 mg, 0.54 mmol) in DMF (2 mL). HOBT (88 mg, 0.65 mmol) and EDCI (125 mg, 0.65 mmol) were then added at room temperature. After 2 minutes, piperazin-1-yl-(2-trifluoromethyl-phenyl)-methanone hydrochloride salt (192 mg, 0.65 mmol) was added and the resulting mixture was stirred at room temperature overnight. Cold water was then added and filtered the solid precipitated out to afford 150 mg (50% yield) of 4-benzyloxy-N-{1,1-dimethyl-2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-benzamide. LCMS Purity: 93.29%. 1H NMR (DMSO-d6): δ 8.4 (bs, 1H), 7.6-7.8 (m, 5H), 7.4 (m, 6H), 7.0-7.1 (d, 2H), 5.2 (m, 2H), 3.5 (m, 5H), 3.0 (m, 3H), 1.4 (s, 6H).

reactant | DIPEA | 1.62 mmol, 0.19 mL, 284 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-(4-benzyloxy-benzoylamino)-2-methyl-propionic acid | 0.54 mmol, 170 mg | C(C1=CC=CC=C1)OC1=CC=C(C(=O)NC(C(=O)O)(C)C)C=C1 | C18H19NO4
reactant | HOBT | 0.65 mmol, 88 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.65 mmol, 125 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | piperazin-1-yl-(2-trifluoromethyl-phenyl)-methanone hydrochloride salt | 0.65 mmol, 192 mg | Cl.N1(CCNCC1)C(=O)C1=C(C=CC=C1)C(F)(F)F
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-benzyloxy-N-{1,1-dimethyl-2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-benzamide | 150 mg, 50% yield | C(C1=CC=CC=C1)OC1=CC=C(C(=O)NC(C(N2CCN(CC2)C(C2=C(C=CC=C2)C(F)(F)F)=O)=O)(C)C)C=C1 | C30H30F3N3O4
